US06696110B1
Preparation of 2-(4-[(E)-hex-2-Enyloxy]phenyl)-5-octylthiazole
Triphenylphosphine (0.95 g) is added in small portions to a solution of (E)-hex-2-en-1-ol (0.40 g), 2-(4-hydroxyphenyl)-5-octylthiazole (0.70 g), diethylazodicarboxylate (0.60 g) in dry tetrahydrofuran (40 cm3) at 0° C. under an atmosphere of nitrogen. The reaction mixture is stirred at room temperature overnight. The solvent is removed under reduced pressure and the crude product was purified by column chromatography on silica gel using a 4:1 petroleum (40-60° C.) ether/ethyl acetate mixture as eluent, followed by recrystallisation from ethanol to yield 0.15 g of 2-(4-[(E)-hex-2-enyloxy]phenyl)-5-octyfthiazole.

reactant | Triphenylphosphine | 0.95 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (E)-hex-2-en-1-ol | 0.40 g | C(\C=C\CCC)O | C6H12O
reactant | 2-(4-hydroxyphenyl)-5-octylthiazole | 0.70 g | OC1=CC=C(C=C1)C=1SC(=CN1)CCCCCCCC | C17H23NOS
reactant | diethylazodicarboxylate | 0.60 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 40 cm3 | O1CCCC1 | C4H8O
product | 2-(4-[(E)-hex-2-Enyloxy]phenyl)-5-octylthiazole | C(\C=C\CCC)OC1=CC=C(C=C1)C=1SC(=CN1)CCCCCCCC | C23H33NOS
